US06376555B1
(−)-3-(4-Methoxy-phenyl)-4-((R)-1-phenyl-ethylamino)-cyclobut-3-ene-1,2-dione
In a manner similar to Example 1, Step 2; 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione (150 g, 0.609 mmol) and (R)-(+)-α-methyl-benzylamine (180 μL, 0.914 mmol) in ethanol (1 mL) were converted to the title compound (120 mg, 64%) m.p.: 158.7-160.1° C.; 1H NMR (DMSO-d6) δ 9.28(d,1H), 8.04(ABq,2H), 7.35(m,5H), 7.10(ABq,2H), 3.83(s,3H), 1.64(d,3H); IR (KBr) 3260, 3060, 3030, 2970, 1770, 1720, 1600, 1560, 1520, 1440, 1410, 1380, 1340, 1310, 1260, 1220, 1180, 1120, 1100, 1025, 825, 700 cm−1; MS (m/z) 307 [M+], [α]25D−185.42° (c0.1049,THF).

reactant | 3-isopropoxy-4-(4-methoxy-phenyl)-cyclobut-3-ene-1,2-dione | 0.609 mmol, 150 g | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)OC)=O)=O | C14H14O4
reactant | (R)-(+)-α-methyl-benzylamine | 0.914 mmol, 180 μL | C[C@H](C1=CC=CC=C1)N | C8H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (−)-3-(4-Methoxy-phenyl)-4-((R)-1-phenyl-ethylamino)-cyclobut-3-ene-1,2-dione | 120 mg, 64% | COC1=CC=C(C=C1)C=1C(C(C1N[C@H](C)C1=CC=CC=C1)=O)=O | C19H17NO3
